US04230703
Synthesis of 5,6-dihydro-2-acetyl-5-methyl-11-oxodibenz[b,e]azepine
Acetyl chloride (8.5 g) was gradually added dropwise to a mixed liquid of 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine (12 g), anhydrous aluminum chloride (21.5 g) and dried methylene chloride (200 ml) while stirring and cooling the liquid with ice. After the dropwise addition, the mixture was stirred for 30 minutes at room temperature, and was heated under refluxing for one hour. Immediately after the reaction, the reaction mixture was poured into a solution containing ice-water (1 kg) and conc. hydrochloric acid (50 ml) while stirring to separate the methylene chloride layer. This layer was washed with a 5% sodium hydrogencarbonate solution, then with water, and dried over magnesium sulfate. Thereafter, the solvent was distilled off, and the residue was recrystallized from methanol to afford the desired compound (13.2 g).

reactant | Acetyl chloride | 8.5 g | C(C)(=O)Cl | C2H3ClO
reactant | 5,6-dihydro-5-methyl-11-oxodibenz[b,e]azepine | 12 g | CN1C2=C(C(C3=C(C1)C=CC=C3)=O)C=CC=C2 | C15H13NO
reactant | aluminum chloride | 21.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5,6-dihydro-2-acetyl-5-methyl-11-oxodibenz[b,e]azepine | 13.2 g | C(C)(=O)C1=CC2=C(N(CC3=C(C2=O)C=CC=C3)C)C=C1 | C17H15NO2
